US06093710
To a mixture of 4-oxo-4,5,6,7-tetrahydrobenzo[b]furan (20.06 g) and THF (200 ml) was added dropwise 2M n-butylmagnesium bromide with ice-water cooling over 15 minutes. The mixture was stirred at r.t. overnight. The reaction mixture was poured into a mixture of a saturated aqueous solution of NH4Cl and AcOEt. The separated organic layer was washed with water and brine, and dried over MgSO4, and evaporated. The resulting oil was purified by chromatography on SiO2 (CHCl3 as eluent) to give 4-n-butylidene-4,5,6,7-tetrahydrobenzo[b]furan as a yellow oil (12.06 g).

reactant | 4-oxo-4,5,6,7-tetrahydrobenzo[b]furan | 20.06 g | O=C1CCCC=2OC=CC21 | C8H8O2
reactant | THF | 200 ml | C1CCOC1 | C4H8O
reactant | n-butylmagnesium bromide | 2M | C(CCC)[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 4-n-butylidene-4,5,6,7-tetrahydrobenzo[b]furan | 12.06 g | C(CCC)=C1CCCC=2OC=CC21 | C12H16O
